US08349849B2
7-(Benzyloxy)-3-bromo-1,2-dihydronaphthalene
The intermediate, 6-(benzyloxy)-2-bromo-1,2,3,4-tetrahydronaphthalen-1-ol, was heated to reflux with p-toluenesulfonic acid monohydrate (0.916 g, 0.00482 mol) in toluene (300 mL, 3 mol) with a Dean-Stark tube for 1 hour, cooled to r.t., washed with saturated NaHCO3, water, brine, dried over anhydrous Na2SO4, filtered, evaporated in rotavapor to give a crude oil. Chromatograph with EtOAc:hexane (0:100 to 10:90) gave a solid product (17.29g, 57%). 1H NMR (CHLOROFORM-d) δ: 7.30-7.49 (m, 5H), 6.85-6.96 (m, 1H), 6.76 (m, 3H), 5.06 (s, 2H), 2.87-3.00 (m, 2H), 2.67-2.83 (m, 2H). MS (M+1): 316.0.

reactant | 6-(benzyloxy)-2-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | C(C1=CC=CC=C1)OC=1C=C2CCC(C(C2=CC1)O)Br | C17H17BrO2
reactant | p-toluenesulfonic acid monohydrate | 0.00482 mol, 0.916 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 3 mol, 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 7-(Benzyloxy)-3-bromo-1,2-dihydronaphthalene | 17.29g, 57% | C(C1=CC=CC=C1)OC1=CC=C2C=C(CCC2=C1)Br | C17H15BrO
